### PR TITLE
WIP: Fix Deep Recursion by Using Bitshift Repr

### PR DESCRIPTION
**Pull request by dtumad**
Using e.g. `2^16` in place of `2 <<< 16` is what is causing most of the "(kernel) deep recursion detected" issues. This PR swaps to that form, and also tries to just unfold `Word.toNat` less in general. This happens in the kernel after Lean has unfolded the function calls, so just no opening up `Word.toNat` isn't enough, we need to actually change this.

```
import Mathlib

example (n : ℕ) :
    (match
      (match BitVec.ofNat 64 (n * 2^16) with
      | 0#64 => some false
      | _ => some true) with
    | none => ()
    | some _ => ()) =
    if 1 + 1 = 2 then () else () := by
  rw [one_add_one_eq_two] -- causes deep recursion error

example (n : ℕ) :
    (match
      (match BitVec.ofNat 64 (n <<< 16) with
      | 0#64 => some false
      | _ => some true) with
    | none => ()
    | some _ => ()) =
    if 1 + 1 = 2 then () else () := by
  rw [one_add_one_eq_two] -- no deep recursion error
```

### CODE REVIEW

**Comment by GZGavinZhao** [comment]
You can merge this if you want to. Don't worry about me.

File: SP1Operations/Compare/LtOperationSigned.lean [hunk 1]
```diff
@@ -154,9 +154,10 @@ lemma spec.branch
   rcases h_lt with ⟨ h_comp_limbs, ⟨ h_is_real_bool, h_flag_0_bool, h_flag_1_bool, h_flag_2_bool, h_flag_3_bool, lt_00, lt_01, lt_02, lt_03, lt_04, lt_05, lt_06, lt_07 ⟩ ⟩
   rw [U16CompareOperation.allHold_constraints_iff] at h_comp_limbs
   rcases h_comp_limbs with ⟨ cmp_00, cmp_01, cmp_02 ⟩
+  simp only [Nat.shiftLeft_eq] at *
   simp_all
-
   constructor <;> intro sgn <;> (repeat rw [this]) <;> clear this <;> simp_all
+  stop
```
Comment (PetarMax) [inline SP1Operations/Compare/LtOperationSigned.lean:161]: Something is going wrong here. `split_ands` hangs, and then when I override that with `[ skip; constructor; constructor; constructor; constructor ] the following `split_ifs` hangs.

File: SP1Foundations/SailM.lean [hunk 2]
```diff
@@ -593,33 +597,48 @@ lemma exec_RTYPEW_pure_bv_to_w (op1 : Word (Fin BB)) (op2 : Word (Fin BB)) (op :
   intro h_op1_isU64 h_op2_isU64
   have ha' := Word.lt_cases_of_isU64 h_op1_isU64
   have hb' := Word.lt_cases_of_isU64 h_op2_isU64
-  cases op <;> simp [execute_RTYPEW_pure] <;> congr
```
Comment (PetarMax) [inline SP1Foundations/SailM.lean:596]: This `congr` hangs as well, it didn't before.

File: SP1Operations/Compare/LtOperationSigned.lean (hunk 1 above)
Comment (dtumad) [reply SP1Operations/Compare/LtOperationSigned.lean:161]: Oh sorry, I was only searching for `sorry` to fix (no pun intended). Will look at this and why they are stalling

File: SP1Foundations/SailM.lean (hunk 2 above)
Comment (dtumad) [reply SP1Foundations/SailM.lean:596]: This seems maybe related to the fact that `ofNat` was causing deep recursion issues when it wasn't already unfolded (and it isn't `@[reducible]`). Hadn't looked very closely when just refactoring the proof.

Comment (PetarMax) [reply SP1Foundations/SailM.lean:596]: Possibly. I'm not sure how that would come up in this proof, given that the first change is here...

Comment (dtumad) [reply SP1Foundations/SailM.lean:596]: My thought was that one side contains e.g. a `x * 2^16` and the other a `x <<< 16`, and Lean is both somehow seeing that, and trying to unify them in congruence which is difficult. I'll investigate more when I get home. This is definitely not the `getElem` change (given the location of the macro), and none of the bit-shifts should be in scope IIRC (will check when I'm back home)

**Comment by dtumad** [comment]
This branch has grown too large and still isn't fully finished. Closing in favor of cherry picking individual commits to merge incrementally
